US08193189B2
8-Bromo-2-(3,4,5-trimethoxy-phenyl)-quinoxaline
A microwave tube is charged with 30 mg (0.123 mmol) of 8-Bromo-2-chloro-quinoxaline, 26.4 mg (0.123 mmol) of 3,4,5-trimethoxyphenylboronic acid, 40 mg (0.370 mmol) of Na2CO3 and 4.4 mg (0.0037 mmol) of Pd(PPh3)4. After several cycles of vacuum/purge with argon, 1.5 ml of dry DMF are added. The reaction mixture is then heated tot 105° C. for 15 h. After cooling, the yellow suspension is poured onto de-ionized water and filtered. After drying under H.V. at 50° C., the residue is purified by chromatography (silicagel, hexane:EtOAc=100=>1:1) to afford the title compound as a yellow solid, Rt=1.294 min (Acquity HPLC BEH C18, 2.1×50 mm, 1.7 micron, detection 215 nM, 0.1 min 2% CH3CN in H2O, 2% to 100% CH3CN in H2O in 1.5 min, 0.4 min 100% CH3CN+0.1% TFA, flow rate 1.0 ml/min); MS: 375 (M)+.

reactant | 8-Bromo-2-chloro-quinoxaline | 0.123 mmol, 30 mg | BrC=1C=CC=C2N=CC(=NC12)Cl | C8H4BrClN2
reactant | 3,4,5-trimethoxyphenylboronic acid | 0.123 mmol, 26.4 mg | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
reactant | Na2CO3 | 0.370 mmol, 40 mg | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.0037 mmol, 4.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-Bromo-2-(3,4,5-trimethoxy-phenyl)-quinoxaline | BrC=1C=CC=C2N=CC(=NC12)C1=CC(=C(C(=C1)OC)OC)OC | C17H15BrN2O3
